US08912186B2
Bromomethyl-methylether (0.87 ml) was added dropwise to a stirred suspension of p-hydroxyacetophenone (1 g) and sodium hydride (0.44 g) at 0° C. under nitrogen. The mixture was stirred for 1 h at room temperature. Then water was added and the mixture was extracted with ethylacetate. The organic layer was dried over magnesium sulphate and concentrated in vacuo to leave p-methoxymethoxyacetophenone (1.4 g) as yellow solid which was processed without further purification.

reactant | Bromomethyl-methylether | 0.87 ml | BrCOC | C2H5BrO
reactant | p-hydroxyacetophenone | 1 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | sodium hydride | 0.44 g | [H-].[Na+]
solvent | water | O | H2O
product | p-methoxymethoxyacetophenone | 1.4 g | COCOC1=CC=C(C=C1)C(C)=O | C10H12O3
